US05352801
(Z)-5-Benzylidene pyrrolidin-2,4-dione (II, R1 =phenyl)
133 g of concentrated aqueous ammonia solution was heated to 65° to 70° C. 75 g of (E)-2-chloro-3-methoxybut-2-enoic acid methyl ester was instilled for 3 hours with constant passing through of ammonia gas. The mixture was stirred another 45 minutes at this temperature, heated 30 minutes to reflux temperature and then cooled to room temperature. After the addition of 300 ml of water and 50 ml of 33 percent sodium hydroxide solution, 46.4 g of benzaldehyde was added. The mixture was heated for 6 hours at 60° C. under stirring and then cooled to room temperature. Then 688 ml of concentrated hydrochloric acid was added and the reaction mixture was stirred for 22 hours at 40° C. After cooling to room temperature, the yellow product was filtered off, washed with cold water and dried in a vacuum drying cabinet. The yield of the title compound was 74.66 g (88 percent of theory). The title compound had a melting point of 186° to 187° C. (THF/hexane).

reactant | ammonia | 133 g | N | H3N
reactant | (E)-2-chloro-3-methoxybut-2-enoic acid methyl ester | 75 g | COC(/C(=C(/C)\OC)/Cl)=O | C6H9ClO3
reactant | sodium hydroxide | 50 ml | [OH-].[Na+]
reactant | benzaldehyde | 46.4 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | hydrochloric acid | 688 ml | Cl | ClH
solvent | water | 300 ml | O | H2O
product | (Z)-5-Benzylidene pyrrolidin-2,4-dione | C(/C1=CC=CC=C1)=C/1\C(CC(N1)=O)=O | C11H9NO2
